US04147780
0.5 Parts of freshly distilled acetaldehyde was added to a suspension of 2.5 parts of benzhydrylammonium hypophosphite in 10 parts of dioxan at room temperature and the mixture stirred for 15 minutes. The mixture was then heated slowly to 50° when solution occurred and a flocculent precipitate immediately formed. The mixture was allowed to cool to room temperature with vigorous stirring and the orange yellow solid filtered off washed with dioxan and ether and finally with a little cold ethanol to give DL-1-benzhydrylaminoethane phosphonous acid, melting point 220°-221°.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | benzhydrylammonium hypophosphite | [PH2](=O)[O-].C(C1=CC=CC=C1)(C1=CC=CC=C1)[NH3+]
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-benzhydrylaminoethane phosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C)P(O)O | C15H18NO2P
